US05194602
Pregna-4,9(11)-diene-3,20-dione
A solution of 9α-hydroxypregn-4-ene-3,20-dione (218 mg) in 70% (v/v) aqueous sulfuric acid was stirred at room temperature for 1 hour after which the reaction mixture was added dropwise to a stirred mixture of water (5 ml) and ethyl acetate (5 ml). The organic layer was washed with a 5% aqueous potassium carbonate solution, then with water to neutral pH, dried (MgSO4) and concentrated under reduced pressure. The crude product (149 mg), still containing some starting material, was purified by chromatography (silica gel, toluene/acetone 3/1) to afford the title compound.

reactant | 9α-hydroxypregn-4-ene-3,20-dione | 218 mg | O[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CC[C@H](C(C)=O)[C@]1(CC2)C)=O)C | C21H30O3
reactant | water | 5 ml | O | H2O
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Pregna-4,9(11)-diene-3,20-dione | CC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)=O | C21H28O2
